US07217723B2
To a solution of 6-acetoxy-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide (the compound of Preparation Example 65) (200 mg) in pyridine (2 mL) was added hydroxylamine.hydrochloride (61 mg). After stirring at room temperature for 2.5 hours, two products were observed by TLC. After the solution was diluted with ethyl acetate, the solution was washed with water and saturated sodium chloride water. The crude products obtained after drying with anhydrous sodium sulfate, removing the solvent by evaporation were purified by silica gel column chromatography (ethyl acetate/hexane), the fraction that was eluted by a solvent with a higher polarity (the fractions that demonstrated low Rf values) were collected, and (7Z)-6-acetoxy-7-hydroxyimino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)ethyl]-methyl-amide was obtained. Thereafter, to methanol (1 mL) was added excess potassium carbonate. The solution was stirred at room temperature for 1 hour. Water was added, the solution was extracted with ethyl acetate, and the organic layer was dried with anhydrous magnesium sulfate. The residue resulting from the removal of the solvent by evaporation was purified by LC-MS, and the title compound (0.9 mg) was obtained as a colorless solid.

reactant | 6-acetoxy-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide | FC1=CC=C(C=C1)CCN(S(=O)(=O)C=1C2=C(SC1)C(C(CC2)OC(C)=O)=O)C | C19H20FNO5S2
reactant | hydroxylamine.hydrochloride | 61 mg | Cl.NO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (7Z)-6-acetoxy-7-hydroxyimino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)ethyl]-methyl-amide | FC1=CC=C(C=C1)CCN(S(=O)(=O)C=1C2=C(SC1)\C(\C(CC2)OC(C)=O)=N/O)C | C19H21FN2O5S2
